US07425593B2
First, poly(2-vinylpyridine) homopolymer was prepared by using 2-vinylpyridine (2VP) monomer at −78° C. and under high vacuum (10−6 torr) in the solvent of THF for 30 min. The temperature of −78° C. is maintained by adding dry ice in a constant-temperature bath with acetone, and measured with a thermometer for low temperature. The initiator of potassium diphenylmethane (DPM-K) was prepared by reacting potassium-naphthalene (K-NaPh) ion solution with diphenylmethane, and diluted to appropriate concentration using a distribution device connected to vacuum line. The initiator was divided into glass ampoules and stored in a low temperature refrigerator.

reactant | 2-vinylpyridine | C(=C)C1=NC=CC=C1 | C7H7N
reactant | dry ice | C(=O)=O | CO2
reactant | potassium naphthalene | [K].C1=CC=CC2=CC=CC=C12
reactant | diphenylmethane | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
solvent | acetone | CC(=O)C | C3H6O
solvent | THF | C1CCOC1 | C4H8O
product | potassium diphenylmethane | C1(=CC=CC=C1)CC1=CC=CC=C1.[K] | InChI=1S/C13H12.K/c1-3-7-12(8-4-1)11-13-9-5-2-6-10-13;/h1-10H,11H2;
